US06562811B1
To a solution of tert-butyl 1-{2-amino-6-[2-(benzyloxy)phenyl]-3-formyl-4-pyridinyl}-2-phenylethylcarbamate (0.040 g, 0.092 mmol) in ethanol (1.0 mL) was added NaBH4 (0.010 g, 0.26 mmol), and the stirring was continued for 3 hrs. The mixture was extracted with ethyl acetate and saturated aqueous ammonium chloride solution. The separated organic phase was washed with water and brine successively, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was crystallized from ethanol to give tert-butyl 1-[2-amino-6-[2-(benzyloxy)phenyl]-3-(hydroxymethyl)-4-pyridinyl]-2-phenylethylcarbamate as a pale yellow solid (0.023 g, yield; 57%).

reactant | tert-butyl 1-{2-amino-6-[2-(benzyloxy)phenyl]-3-formyl-4-pyridinyl}-2-phenylethylcarbamate | 0.092 mmol, 0.040 g | NC1=NC(=CC(=C1C=O)C(CC1=CC=CC=C1)NC(OC(C)(C)C)=O)C1=C(C=CC=C1)OCC1=CC=CC=C1 | C32H33N3O4
reactant | NaBH4 | 0.26 mmol, 0.010 g | [BH4-].[Na+]
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | tert-butyl 1-[2-amino-6-[2-(benzyloxy)phenyl]-3-(hydroxymethyl)-4-pyridinyl]-2-phenylethylcarbamate | 0.023 g, yield; 57% | NC1=NC(=CC(=C1CO)C(CC1=CC=CC=C1)NC(OC(C)(C)C)=O)C1=C(C=CC=C1)OCC1=CC=CC=C1 | C32H35N3O4
